US04709068
Under argon 2.16 g (0.010 mole) of 4-fluoro-3-phenoxybenzaldehyde was dissolved in 50 ml of absolute ethanol. To this solution was added with stirring 0.28 g (0.0074 mole) of sodium borohydride. After stirring at room temperature for 24 hours, 3 ml of 10% hydrochloric acid was added to the reaction mixture. The solvent was then evaporated under reduced pressure, leaving a milky-white residue. This residue was dissolved in 100 ml of diethyl ether and 5% hydrochloric acid. The organic phase was separated, washed in succession twice with 25 ml of 5% hydrochloric acid and twice with 10 ml of a saturated aqueous solution of sodium chloride, and dried over anhydrous magnesium sulfate. After filtration, the solvent was evaporated under reduced pressure, leaving 1.98 g of (4-fluoro-3-phenoxyphenyl)methyl alcohol as a clear, colorless liquid. The nmr and ir spectra were consistent with the proposed structure.

reactant | 4-fluoro-3-phenoxybenzaldehyde | FC1=C(C=C(C=O)C=C1)OC1=CC=CC=C1 | C13H9FO2
reactant | sodium borohydride | 0.0074 mole, 0.28 g | [BH4-].[Na+]
solvent | ethanol | 50 ml | C(C)O | C2H6O
solvent | diethyl ether | 100 ml | C(C)OCC | C4H10O
solvent | hydrochloric acid | Cl | ClH
solvent | hydrochloric acid | 3 ml | Cl | ClH
product | (4-fluoro-3-phenoxyphenyl)methyl alcohol | 1.98 g | FC1=C(C=C(C=C1)CO)OC1=CC=CC=C1 | C13H11FO2
